US08293895B2
A solution of (5-methylfuran-2-yl)methanamine (11.1 g, 100 mmol) in 300 mL of dichloromethane and 25 mL of diisopropylethylamine were added into a flask, and the reaction mixture was cooled to 0° C. in an ice bath. Di-tert-butyl dicarbonate (21.8 g, 100 mmol) in 100 ml of dichloromethane was added dropwise, upon completion of addition, the cooling bath was removed, and the reaction mixture was stirred at room temperature for 3 h. After the completion of the reaction, the mixture was diluted with 300 mL of dichloromethane, and washed successively with water and saturated brine. The organic layer was dried and concentrated to give 20.15 g (95.5% yield) of 2-(tert-butoxycarbonylaminomethyl)-5-methylfuran.

reactant | (5-methylfuran-2-yl)methanamine | 100 mmol, 11.1 g | CC1=CC=C(O1)CN | C6H9NO
reactant | Di-tert-butyl dicarbonate | 100 mmol, 21.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | diisopropylethylamine | 25 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 2-(tert-butoxycarbonylaminomethyl)-5-methylfuran | 20.15 g, 95.5% yield | C(C)(C)(C)OC(=O)NCC=1OC(=CC1)C | C11H17NO3
